US07517872B2
3-cyclohexenyl-1H-pyrrolo[2,3-b]pyridine.
Methanol (150 mL) was added dropwise to a chilled (0° C.) 1 L flask containing sodium hydride (60% dispersion in mineral oil, 19.3 g, 480 mmol). To the stirred suspension was added 7-azaindole (10.2 g, 86 mmol) in MeOH (100 mL) and cyclohexanone (35 mL, 340 mmol) in MeOH (65 mL). The cloudy solution was refluxed for 24 h, then the solvent was removed under reduced pressure. The oily residue was cooled in an ice bath and 3 N HCl was added with vigorous stirring until the pH=8 (pH paper). The resulting yellow ppt. was collected by filtration, washed with H2O, triturated with tBME/C6H14 (1:1, 50 mL), and dried by toluene azeotrope to give the title compound as a white solid (13.0 g, 76% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.66-1.78 (m, 2H) 1.78-1.91 (m, 2H) 2.20-2.35 (m, 2H) 2.47 (d, J=1.76 Hz, 2H) 6.28 (d, J=3.78 Hz, 1H) 7.10 (dd, J=8.06, 4.78 Hz, 1H) 7.34 (s, 1H) 8.25 (dd, J=8.06, 1.26 Hz, 1H) 8.33 (dd, J=4.66, 1.39 Hz, 1H) 11.8 (br s, 1H); 13C NMR (100 MHz, CDCl3) δ ppm 22.43, 22.98, 25.65, 27.88, 115.52, 117.31, 118.32, 121.57, 122.16, 129.39, 131.07, 141.99, 149.53.

reactant | sodium hydride | 480 mmol, 19.3 g | [H-].[Na+]
reactant | 7-azaindole | 86 mmol, 10.2 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | cyclohexanone | 340 mmol, 35 mL | C1(CCCCC1)=O | C6H10O
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 65 mL | CO | CH4O
solvent | Methanol | 150 mL | CO | CH4O
product | 3-cyclohexenyl-1H-pyrrolo[2,3-b]pyridine | 13.0 g, 76% yield | C1(=CCCCC1)C1=CNC2=NC=CC=C21 | C13H14N2
